US05332757
Using an analogous procedure that described in Example 66, 4'-{5-fluoro-3-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]phenylthio}propiophenone was reacted with hydroxylamine hydrochloride to give 4'-{5-fluoro-3-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]phenylthio}propiophenone oxime in 15% yield, m.p. 113°-114° C.

reactant | 4'-{5-fluoro-3-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]phenylthio}propiophenone | FC=1C=C(C=C(C1)SC1=CC=C(C=C1)C(CC)=O)C1(C(OCC1)C)OC | C21H23FO3S
reactant | hydroxylamine hydrochloride | Cl.NO
product | 4'-{5-fluoro-3-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]phenylthio}propiophenone oxime | 15% yield | FC=1C=C(C=C(C1)SC1=CC=C(C=C1)C(CC)=NO)C1(C(OCC1)C)OC | C21H24FNO3S
